US04983633
3,4-Methylenedioxy-N-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzamide:
To a cooled solution of 20.0 g of 4-[2-(1-pyrrolidinyl)ethoxy]benzylamine in 30 ml of chloroform was added 17.7 g of 3,4-methylenedioxybenzoyl chloride (which was prepared with 15.9 g of piperonylic acid and 65.3 g of thionyl chloride in the usual manner). The mixture was stirred at room temperature for 20 minutes and the solvent was evaporated. 150 ml of water was added to the residue and the mixture was washed with ethyl acetate. The aqueous layer was made alkaline with potassium carbonate and was extracted with ethyl acetate. The extract was washed with water, dried, and evaporated. The residue was washed with isopropyl ether to give 30.0 g of colorless crystals, which were recrystallized from ethyl acetate as colorless needles, m.p. 93.5°-94.5° C.

reactant | 4-[2-(1-pyrrolidinyl)ethoxy]benzylamine | 20.0 g | N1(CCCC1)CCOC1=CC=C(CN)C=C1 | C13H20N2O
reactant | 3,4-methylenedioxybenzoyl chloride | 17.7 g | C1OC=2C=C(C(=O)Cl)C=CC2O1 | C8H5ClO3
reactant | piperonylic acid | 15.9 g | C(C1=CC=2OCOC2C=C1)(=O)O | C8H6O4
reactant | thionyl chloride | 65.3 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-Methylenedioxy-N-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzamide | 30.0 g | C1OC=2C=C(C(=O)NCC3=CC=C(C=C3)OCCN3CCCC3)C=CC2O1 | C21H24N2O4
